US08030311B2
Step 50.2: 1-Ethyl-4-(4-nitro-phenyl)-piperazine
A mixture of 1-bromo-4-nitrobenzene (6 g, 29.7 mmol) and 1-ethylpiperazine (7.6 mL, 59.4 mmol, 2 equiv) is heated to 80° C. for 15 h. After cooling to rt, the reaction mixture is diluted with water and DCM/MeOH, 9:1. The aqueous layer is separated and extracted with CH2Cl2/MeOH, 9:1. The organic phase is washed with brine, dried (sodium sulfate), filtered and concentrated. Purification of the residue by silica gel column chromatography (CH2Cl2/MeOH+1% NH3aq, 9:1) affords the title compound as a yellow solid: ESI-MS: 236.0 [MH]+; tR=2.35 min (System 1); TLC: Rf=0.50 (CH2Cl2/MeOH+1% NH3aq, 9:1).

reactant | 1-bromo-4-nitrobenzene | 29.7 mmol, 6 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 1-ethylpiperazine | 59.4 mmol, 7.6 mL, 2 equiv | C(C)N1CCNCC1 | C6H14N2
solvent | water | O | H2O
solvent | DCM MeOH | C(Cl)Cl.CO
product | 1-Ethyl-4-(4-nitro-phenyl)-piperazine | C(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
